US05728835
4-Acetylamino-N-{2-[4-(4-fluorobenzoyl)piperidino]ethyl}-N-(4-methylphenyl)benzamide
Using 4-amino-N-{2-[4-(4-fluorobenzoyl)piperidino]ethyl}-N-(4-methylphenyl)benzamide (452.7 mg, 0.99 mmol) and acetic anhydride (0.122 ml, 1.19 mmol), the procedure of Inventive Example 94 was repeated to obtain 473.6 mg (95.4%) of the title compound in a light brown amorphous form.

reactant | 4-amino-N-{2-[4-(4-fluorobenzoyl)piperidino]ethyl}-N-(4-methylphenyl)benzamide | 0.99 mmol, 452.7 mg | NC1=CC=C(C(=O)N(C2=CC=C(C=C2)C)CCN2CCC(CC2)C(C2=CC=C(C=C2)F)=O)C=C1 | C28H30FN3O2
reactant | acetic anhydride | 1.19 mmol, 0.122 ml | C(C)(=O)OC(C)=O | C4H6O3
product | 4-Acetylamino-N-{2-[4-(4-fluorobenzoyl)piperidino]ethyl}-N-(4-methylphenyl)benzamide | 473.6 mg, 95.4% | C(C)(=O)NC1=CC=C(C(=O)N(C2=CC=C(C=C2)C)CCN2CCC(CC2)C(C2=CC=C(C=C2)F)=O)C=C1 | C30H32FN3O3
